US04831151
3.1 g (7.45 mmol) of 1-benzylideneamino-2-ethyl-3-(3,4,5-trimethoxybenzyl)imidazolium chloride are dissolved in 70 ml of water, whereupon the solution is treated with 8 ml of 25 percent hydrochloric acid. The resulting benzaldehyde is removed by steam distillation. After evaporation the product is recrystallized from ethanol/ether. There is obtained 1-amino-2-ethyl-3-(3,4,5-trimethoxybenzyl)-imidazolium chloride of melting point 174°.

reactant | 1-benzylideneamino-2-ethyl-3-(3,4,5-trimethoxybenzyl)imidazolium chloride | 7.45 mmol, 3.1 g | [Cl-].C(C1=CC=CC=C1)=N[N+]1=C(N(C=C1)CC1=CC(=C(C(=C1)OC)OC)OC)CC
reactant | hydrochloric acid | 8 ml | Cl | ClH
solvent | water | 70 ml | O | H2O
product | 1-amino-2-ethyl-3-(3,4,5-trimethoxybenzyl)-imidazolium chloride | [Cl-].N[N+]1=C(N(C=C1)CC1=CC(=C(C(=C1)OC)OC)OC)CC | InChI=1S/C15H22N3O3.ClH/c1-5-14-17(6-7-18(14)16)10-11-8-12(19-2)15(21-4)13(9-11)20-3;/h6-9H,5,10,16H2,1-4H3;1H/q+1;/p-1
